US07851473B2
(2) N-(6-Fluoro-1,2-benzisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A mixture of 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (492 mg, 2.00 mmol), bis(2,2,2-trichloroethyl) (6-fluoro-1,2-benzisoxazol-3-yl)imidodicarbonate (502 mg, 1.00 mmol), diisopropylethylamine (0.174 ml, 1.00 mmol) and dimethyl sulfoxide (5 ml) was stirred at 70° C. for 5 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from a mixed solvent of tetrahydrofuran and ethyl acetate to yield 136 mg (32.1%) of the desired product.

reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 2.00 mmol, 492 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | bis(2,2,2-trichloroethyl) (6-fluoro-1,2-benzisoxazol-3-yl)imidodicarbonate | 1.00 mmol, 502 mg | FC1=CC2=C(C(=NO2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl)C=C1 | C13H7Cl6FN2O5
reactant | diisopropylethylamine | 1.00 mmol, 0.174 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(6-Fluoro-1,2-benzisoxazol-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 136 mg, 32.1% | FC1=CC2=C(C(=NO2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C2=CC=CC=C2)C=C1 | C20H17FN6O2S
